US05756821
2,4,4,7-Tetramethyl-oct-6-en-3-ol
91 g of 2,4,4,7-tetramethyl-oct-6-en-3-one are stirred with 19 g of sodium borohydride in alcohol at 40° C. for 24 hours. The alcohol is distilled off, water is added and the product is extracted with tert-butyl methyl ether. The organic phase is washed neutral and distilled over a 40 cm packed column.

reactant | 2,4,4,7-tetramethyl-oct-6-en-3-one | 91 g | CC(C)C(C(CC=C(C)C)(C)C)=O | C12H22O
reactant | sodium borohydride | 19 g | [BH4-].[Na+]
product | 2,4,4,7-Tetramethyl-oct-6-en-3-ol | CC(C)C(C(CC=C(C)C)(C)C)O | C12H24O
